US07691882B2
3-(1-(4-Prop-2-ynyloxymethyl-benzyl)-1H-pyrazol-4-yl)-pyridin-2-ylamine
To a mixture of 3-(1H-pyrazol-4-yl)-pyridin-2-ylamine (30 mg, 0.19 mmol) described in Manufacturing Example 32-1-4 and tetrahydrofuran (1 mL) was added sodium hydride (12 mg, 0.24 mmol, 50% in oil) at 0° C., and then N,N-dimethylformamide (1 mL) was added. The reaction mixture was stirred for 10 minutes at room temperature, after which 1-chloromethyl-4-prop-2-ynyloxymethyl-benzene (47 mg, 0.24 mmol) described in Manufacturing Example 194-1-2 was added to this mixture at 0° C., which was stirred for 2 hours at room temperature. Water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=4:1) to obtain the title compound (37 mg, 62%).

reactant | 3-(1H-pyrazol-4-yl)-pyridin-2-ylamine | 0.19 mmol, 30 mg | N1N=CC(=C1)C=1C(=NC=CC1)N | C8H8N4
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 0.24 mmol, 12 mg | [H-].[Na+]
reactant | 1-chloromethyl-4-prop-2-ynyloxymethyl-benzene | 0.24 mmol, 47 mg | ClCC1=CC=C(C=C1)COCC#C | C11H11ClO
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-(1-(4-Prop-2-ynyloxymethyl-benzyl)-1H-pyrazol-4-yl)-pyridin-2-ylamine | 37 mg, 62% | C(C#C)OCC1=CC=C(CN2N=CC(=C2)C=2C(=NC=CC2)N)C=C1 | C19H18N4O
